US09212154B2
D-Cysteine hydrochloride monohydrate (10 g, 57 mmol) was dissolved in water (20 ml), and the pH of the solution was adjusted to 5.13 with 6N aqueous sodium hydroxide solution. The reaction mixture was heated to 40° C., ethyl pyruvate (7.6 ml, 68 mmol) was gradually added thereto, and the mixture was stirred at 40° C. for 4.5 hours to give 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of trans form:cis form of the resultant product in the reaction mixture was confirmed by NMR to find about 55:45). After completion of the reaction, the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over magnesium sulfate. To the obtained ethyl acetate solution was added triethylamine (16 ml, 115 mmol) under argon, acetyl chloride (6.1 ml, 86 mmol) was slowly added dropwise thereto, and the reaction mixture was heated under reflux for 3 hr to give N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of trans form:cis form of the resultant product in the reaction mixture was confirmed by NMR to be about 97:3). After completion of the reaction, water (30 ml) was added thereto, and the pH of the mixture was adjusted to 0.9 with 5.7M HCl. The aqueous layer was separated, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The obtained ethyl acetate solution was concentrated to a weight of 157 g, and to the residue was heptane to be recrystallize the residue. The solid was washed with heptane/ethyl acetate=1.5/1, and dried at 50° C. under reduced pressure to give a crystal of a trans form of N-acetyl-2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester (the ratio of the trans form was confirmed by the area ratio of an HPLC chart to find about 99%) (10.7 g, yield 71%).

reactant | D-Cysteine hydrochloride monohydrate | 57 mmol, 10 g | O.Cl.N[C@H](CS)C(=O)O
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | ethyl pyruvate | 68 mmol, 7.6 ml | C(C(=O)C)(=O)OCC | C5H8O3
solvent | water | 20 ml | O | H2O
product | 2-methylthiazolidine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1(SCC(N1)C(=O)O)C | C8H13NO4S
